US07968554B2
A mixture of 3-hydroxy-4-methylbenzoic acid (25.0 g, 164 mmol, Aldrich) and concentrated sulfuric acid (3 mL) in absolute ethanol (165 mL) was heated at reflux for 20 hours. After cooling, solid sodium bicarbonate (7 g) was added to neutralize the acid. The mixture was then partitioned between diethyl ether (2×300 mL) and water (2×300 mL). The organic layers were washed with brine (300 mL), combined, dried (MgSO4), filtered, and concentrated. The residue was recrystallized from hexanes to give 3-hydroxy-4-methyl-benzoic acid ethyl ester in two crops as white crystals. (Yield 28.90 g, 97.8%).

reactant | 3-hydroxy-4-methylbenzoic acid | 164 mmol, 25.0 g | OC=1C=C(C(=O)O)C=CC1C | C8H8O3
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | 7 g | C([O-])(O)=O.[Na+]
reactant | ethanol | 165 mL | C(C)O | C2H6O
product | 3-hydroxy-4-methyl-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)C)O)=O | C10H12O3
